US07943654B2
5-(1-Methyl-1-phenyl-ethylcarbamoyl)-3-{2-[(1H-pyrrole-2-carbonyl)amino]benzoylamino}-thieno[2,3-c]pyrazole-1-carboxylic Acid ethyl Ester
A mixture of 3-{2-[(1H-Pyrrole-2-carbonyl)-amino]-benzoylamino}-thieno[2,3-c]pyrazole-1,5-dicarboxylic acid 1-ethyl ester (198.5 mg, 0.4246 mmol), 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU, 204 mg, 0.6369 mmol), DIEA (0.29 mL, 1.6984 mmol) and cumylamine (115 mg, 0.8492 mmol) in DMF (10 mL) was stirred at room temperature. After 2 hours the mixture was diluted with AcOEt (40 mL) and washed with saturated NaHCO3, water and brine. The organic layer was dried over Na2SO4 and evaporated to give 495 mg of crude that was used in the next step without further purification, LC-MS: Rt 7.36; [M+H]+ 585.

reactant | 3-{2-[(1H-Pyrrole-2-carbonyl)-amino]-benzoylamino}-thieno[2,3-c]pyrazole-1,5-dicarboxylic acid 1-ethyl ester | 0.4246 mmol, 198.5 mg | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(=O)O)NC(C2=C(C=CC=C2)NC(=O)C=2NC=CC2)=O | C21H17N5O6S
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.6369 mmol, 204 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | DIEA | 1.6984 mmol, 0.29 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cumylamine | 0.8492 mmol, 115 mg | C(C)(C)(C1=CC=CC=C1)N | C9H13N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | 40 mL | CCOC(=O)C | C4H8O2
product | 5-(1-Methyl-1-phenyl-ethylcarbamoyl)-3-{2-[(1H-pyrrole-2-carbonyl)amino]benzoylamino}-thieno[2,3-c]pyrazole-1-carboxylic Acid ethyl Ester | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(NC(C)(C2=CC=CC=C2)C)=O)NC(C2=C(C=CC=C2)NC(=O)C=2NC=CC2)=O | C30H28N6O5S
